US04537722
To 250 ml CH2Cl2 is added with stirring 36 g prednisolone (0.10 mol), 31.3 g chlorambucil (0,103 mol), 1.2 g DMAP (0,01 mol) and 1.1 g pTSA (0,06 mol). The reaction mixture is cooled to 0° C. and with continued stirring at this temperature a solution of 22.7 g DCC (0,11 mol) in 50 ml CH2Cl2 is slowly added. The reaction mixture is then kept at 0° C. with stirring for 20 h. 3 ml acetic acid is added and precipitated urea filtered off. The filtrate is evaporated in vacuo and the residue recrystallized from ethanol to give 58.9 g of TLC pure prednimustine (91% yield) without any discolouration. M.P. 165°-166° C.

reactant | prednisolone | 0.10 mol, 36 g | C[C@]12C[C@@H]([C@H]3[C@H]([C@@H]1CC[C@@]2(C(=O)CO)O)CCC4=CC(=O)C=C[C@]34C)O | C21H28O5
reactant | chlorambucil | 0,103 mol, 31.3 g | C1=CC(=CC=C1CCCC(=O)O)N(CCCl)CCCl | C14H19Cl2NO2
reactant | pTSA | 0,06 mol, 1.1 g | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
reactant | DCC | 0,11 mol, 22.7 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
catalyst | DMAP | 0,01 mol, 1.2 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 250 ml | C(Cl)Cl | CH2Cl2
solvent | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
product | prednimustine | 91% yield | C[C@]12C[C@@H]([C@H]3[C@H]([C@@H]1CC[C@@]2(C(=O)COC(=O)CCCC=4C=CC(=CC4)N(CCCl)CCCl)O)CCC5=CC(=O)C=C[C@]35C)O | C35H45Cl2NO6
